US06649643B1
Production of 1-(1H-Imidazol-4-yl)-2-methyl-1-[6-(1-pyrrolidinylcarbonyl)-2-naphthyl]-1-propanol
In a manner to that described in Example 9-(i), methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (2.83 g) was converted to 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid, which was reacted with pyrrolidine (0.13 mL) in a similar manner as described in Example 24-(i) to give the titled compound (550 mg) as a colorless powder.

reactant | methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 2.83 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C38H34N2O3
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C37H32N2O3
reactant | pyrrolidine | 0.13 mL | N1CCCC1 | C4H9N
product | 1-(1H-Imidazol-4-yl)-2-methyl-1-[6-(1-pyrrolidinylcarbonyl)-2-naphthyl]-1-propanol | 550 mg | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)C(=O)N1CCCC1 | C22H25N3O2
